* ch05_01_basic_current_mirror: basic NMOS current mirror output curve
.include ../../models/educational_cmos.inc
Vdd vdd 0 {VDD}
Iref vdd ref DC 100u
Vout out 0 DC 1.0
M1 ref ref 0 0 NMOS W=10u L=0.18u
M2 out ref 0 0 NMOS W=10u L=0.18u

.control
set noaskquit
set wr_singlescale
set wr_vecnames
dc Vout 0 1.8 0.005
wrdata ../../results/ch05_01_basic_current_mirror.dat v(out) i(vout) v(ref)
quit
.endc
.end

